US07906537B2
2-Chloro-N(4)-(5-chloro-thiophen-2-ylmethyl)-N(4)-methyl-benzene-1,4-diamine
To a solution of N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-(methyl)amino]-phenyl}-2,2,2-trifluoroacetamide (3.118 g) in methanol (MeOH) (50 mL) solution of potassium carbonate (K2CO3) (6.4 g) in water (25 mL) was added and the reaction mixture was stirred until reaction completion (24 hours) at room temperature. The obtained reaction mixture was extracted with ethyl acetate, washed with saturated aqueous sodium bicarbonate (NaHCO3) and evaporated to give 2.26 g of dark brown oil which was used in the next step without further purification. 1H NMR (DMSO-d6): 2.71 (s, 3H, NMe), 4.47 (s, 2H), 4.71 (br. s, 2H, NH2), 6.67-6.75 (m, 3H), 6.82 (d, 1H), 6.93 (d, 1H). LC/MS (m/z) 288.0 ([M+H]+); RT=2.07, (UV, ELSD) 85%, 98%.

reactant | N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-(methyl)amino]-phenyl}-2,2,2-trifluoroacetamide | 3.118 g | ClC1=C(C=CC(=C1)N(C)CC=1SC(=CC1)Cl)NC(C(F)(F)F)=O | C14H11Cl2F3N2OS
reactant | potassium carbonate | 6.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 2-Chloro-N(4)-(5-chloro-thiophen-2-ylmethyl)-N(4)-methyl-benzene-1,4-diamine | 2.26 g | ClC1=C(C=CC(=C1)N(C)CC=1SC(=CC1)Cl)N | C12H12Cl2N2S
